US07115624B1
To a mixture of Ac-D-Tyr-OH (235 mg, 1.05 mmol) dissolved in dichloromethane (10 ml) was added 1-hydroxybenzotriazole (0.14 g, 1.05 mmol), 1-ethyl-3-(3-dimethylamino propyl)carbodiimide hydrochloride (0.20 g, 1.05 mmol) and the reaction mixture was stirred for 15 min at room temperature. 2-Amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (0.3 g, 1.05 mmol) dissolved in dichloromethane (10 ml) was added followed by N,N-diisopropyl-ethylamine (0.18 ml, 1.05 mmol). The resulting reaction mixture was stirred for 18 h at room temperature, diluted with dichloromethane (15 ml) was washed with 10% aqueous citric acid (25 ml), saturated sodium hydrogencarbonate, dried (MgSO4), filtered and the solvent removed in vacuo. The residue was purified by flash chromatography on silica gel (40 g) using ethyl acetate as eluant. Pure fractions were collected and the solvent evaporated in vacuo affording 304 mg (59%) of 7-((2-acetylamino-3-(4-hydroxy-phenyl)propionylamino)methyl)-2-amino-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as an oil.

reactant | Ac-D-Tyr-OH | 1.05 mmol, 235 mg | N([C@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)C | C11H13NO4
reactant | 1-hydroxybenzotriazole | 1.05 mmol, 0.14 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylamino propyl)carbodiimide hydrochloride | 1.05 mmol, 0.20 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-Amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 1.05 mmol, 0.3 g | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN)N | C13H20N2O3S
reactant | N,N-diisopropyl-ethylamine | 1.05 mmol, 0.18 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 7-((2-acetylamino-3-(4-hydroxy-phenyl)propionylamino)methyl)-2-amino-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 304 mg, 59% | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CNC(C(CC2=CC=C(C=C2)O)NC(C)=O)=O)N | C24H31N3O6S
